US08183380B2
1-(Imidazole-1-sulfonyl)-piperidin-4-ol was prepared in accordance with step A of the general method described in example 76 from 4-hydroxypiperidin and 3-(1H-imidazol-1-ylsulfonyl)-1-methyl-1H-imidazolium trifluoromethanesulfonate; MS: m/e=232.5 (M+H+).

reactant | 4-hydroxypiperidin | OC1CCNCC1 | C5H11NO
reactant | 3-(1H-imidazol-1-ylsulfonyl)-1-methyl-1H-imidazolium trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F.N1(C=NC=C1)S(=O)(=O)N1C[NH+](C=C1)C
product | 1-(Imidazole-1-sulfonyl)-piperidin-4-ol | N1(C=NC=C1)S(=O)(=O)N1CCC(CC1)O | C8H13N3O3S
